US07589206B2
b) 1-[7-(3-Methoxy-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-piperidin-1-yl-methanone hydrochloride salt
1-[7-(3-Methoxy-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-piperidin-1-yl-methanone (50 mg) was suspended in warm ethyl acetate (10 ml) and treated with a solution of 1M hydrochloric acid in diethyl ether (10 drops). The mixture was evaporated and dried at 40° C. under vacuum to afford the title compound (47 mg).

reactant | 1-[7-(3-Methoxy-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-piperidin-1-yl-methanone | 50 mg | COC=1C=C(C=CC1)NC=1N=CC(=C2C1NC=C2C)C(=O)N2CCCCC2 | C21H24N4O2
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | diethyl ether | 10 drops | C(C)OCC | C4H10O
product | 1-[7-(3-Methoxy-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-piperidin-1-yl-methanone hydrochloride salt | 47 mg | Cl.COC=1C=C(C=CC1)NC=1N=CC(=C2C1NC=C2C)C(=O)N2CCCCC2 | InChI=1S/C21H24N4O2.ClH/c1-14-12-22-19-18(14)17(21(26)25-9-4-3-5-10-25)13-23-20(19)24-15-7-6-8-16(11-15)27-2;/h6-8,11-13,22H,3-5,9-10H2,1-2H3,(H,23,24);1H
